US04728644
A mixture of 6 g of 6-methylthio-8-(4-pyridyl)purine, 30 ml of an aqueous solution of 70% ethylamine and 30 ml of water is stirred at 150° C. for 10 hours in an autoclave. The reaction mixture is concentrated and the residual oil is dissolved into methanol. To the solution is added about 3 g of activated charcoal. The mixture is shaken well, filtered and then concentrated. The resulting crystals are recrystallized from a 1:1 mixture of ethanol and water to give 1.7 g of 6-ethylamino-8-(4-pyridyl)purine, melting at 308°-310° C. The following compounds can also be prepared in a similar manner as the above examples and according to the methods described in the specification:

reactant | 6-methylthio-8-(4-pyridyl)purine | 6 g | CSC1=C2NC(=NC2=NC=N1)C1=CC=NC=C1 | C11H9N5S
reactant | ethylamine | C(C)N | C2H7N
solvent | water | 30 ml | O | H2O
product | 6-ethylamino-8-(4-pyridyl)purine | 1.7 g | C(C)NC1=C2NC(=NC2=NC=N1)C1=CC=NC=C1 | C12H12N6
